US04959482
N-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-chlorovaleramide (5.5 g; 16 mmol) in 25 ml of tetrahydrofuran was slowly added to 1.4 g (35 mmol) of 60% sodium hydride in mineral oil (washed twice with 25 ml portions of hexane) and 50 ml of tetrahydrofuran. The reaction mixture was stirred and gas evolution was observed. Seventeen hours later the mixture was concentrated to 20 ml, diluted with 50 ml of methylene chloride and washed successively with dilute 1N hydrochloric acid and dilute sodium bicarbonate solution. The organic phase was dried over anhydrous magnesium sulfate and concentrated to a solid (4.5 g). This solid was recrystallized from acetone to yield 3.9 g (12.8 mmol, 80%) of crystalline 1-(3,5-di-tert-butyl-4-hydroxyphenyl)piperidin-2-one, mp 212°-214° C.

reactant | N-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-chlorovaleramide | 16 mmol, 5.5 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC(CCCCCl)=O | C19H30ClNO2
reactant | sodium hydride | 35 mmol, 1.4 g | [H-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-(3,5-di-tert-butyl-4-hydroxyphenyl)piperidin-2-one | 12.8 mmol, 3.9 g, 80% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)N1C(CCCC1)=O | C19H29NO2
